4
R0100 1 0 1E3
L0203 2 3 10E-3
C0100 1 0 100E-6
N0102 1 2 -1000 0 0 0 0.6 1e-3 2 10
$0200 2 0 4 0 1E9 1E-9 0
V0300 3 0 DC 12
V0400 4 0 PULSE 1 -1 0 1E-4 1E-4 0.5E-3 1E-3 1000
.TRAN 1 1E-5 TRAP 1
