6
R0102 1 2 1
R0301 3 1 1
R0403 4 3 1
R0004 0 4 1
R0502 5 2 1
R0605 6 5 1
O0300 3 0 1 0
O0600 6 0 5 4
V0200 2 0 SIN 0 1 1 0 0 0 0
.TRAN 1 0.01 TRAP 1
