Comentario
R00 2 0 1
K00 1 0 2 0 10
I0600 1 0 SIN 2.5 0.1 1E+6 0 0 0 100
.TRAN 30E-6 10E-9 TRAP 1
*
*             e1                  e2
*     |---------------|  1:10 |--------|
*     |               |       |        |
*    電              変   ::  変       RR
*    流 SENO         圧   ::  圧       RR 1
*    源              器   ::  器       RR
*     |               |       |        |
*    GND             GND     GND     GND
*
