Circuito de Tanque LC para teste de Oscilacao
L1 1 0 1E-3
C1 1 0 1E-3
V1 1 0 PULSE 1 0 6.2E-3 1E-4 1E-4 6.2E-4 6.2E-3 1
.TRAN 6.2E-2 6.2E-7 TRAP 1
*      ___________
*     |      |    |
*     I     ---   L
*     |     ---   L
*     |      |    |
*    GND    GND  GND
