1
R0102 1 2 1
C0010 2 0 1
V0200 1 0 DC 1
.TRAN 15 0.001 TRAP 1
*
*     e1              e2
*     |-----RRRRR-----|
*     |               |
*    電              ---
*    圧              ---
*    源               |
*     |               |
*    GND             GND
*
*
