1
R0102 1 0 1
V0200 1 0 SIN 1 1 2 0 0 0 100
.TRAN 15 0.01 TRAP 1
*
*            e1
*     |---------------|
*     |               |
*    電               R
*    圧               R
*    源               R
*     |               |
*    GND             GND
*
*
