1
R0102 1 0 1
N0301 1 2 -1000 0 0 0 0.1 1000 1 10000
V0200 1 0 SIN 0 1 2 0 0 0 100
.TRAN 15 0.01 TRAP 1
*
*            e1
*     |---------------|
*     |               |
*    電               R
*    圧               R
*    源               R
*     |               |
*    GND             GND
*
*
