5
R0100 1 0 1
R0203 2 3 1
L0402 4 2 (L2)?
L0104 1 4 (L4)?
C0205 2 5 (C1)?
C0400 4 0 (C3)?
C0100 1 0 (C5)?
C0402 4 2 (C2)?
C0104 1 4 (C4)?
VIC 5 0 PULSE 0 0.1 1 0 0 1 1000 1
V0300 3 0 PULSE 0 1 0 0 0 50 100 5
.TRAN 15 10000E-5 TRAP 1
