9
R0102 1 2 1000
R0103 1 3 100000
R0104 1 4 100000
R0105 1 5 1000
C0302 3 2 1E-7
C0504 5 4 1E-7
N0600 6 0 -1000 0 0 0 0.6 1E-4 1 1
N0700 7 0 -1000 0 0 0 0.6 1E-4 1 1
N0802 8 2 -1000 0 0 0 0.6 1E-4 1 1
N0905 9 5 -1000 0 0 0 0.6 1E-4 1 1
F0004 0 4 4 8 5E-1
F0003 0 3 3 9 5E-1
F0204 2 4 4 6 9.9E-1
F0503 5 3 3 7 9.9E-1
I0400 4 0 PULSE 0 1E-3 1E-3 0 0 1E-3 1000 1
VCC 1 0 DC 10
.TRAN 100E-3 100E-7 TRAP 1
