4
L2 1 0 1
L1 2 3 2.5062656641604E-1
C2 1 0 1E-2
C1 3 4 4.07101316192225E-2
K0200 2 0 1 0 1E+1
V0400 4 0 SIN 0 1 1.59154976203148 0 0 90 1000
.TRAN 1.256636E+1 1.256636E-2 TRAP 10
