4
L2 1 0 2.2883295194508E-1
L1 2 3 1.4375
C2 1 0 1E-2
C1 3 4 1.90953574412221E-3
K0200 2 0 1 0 1E+1
V0400 4 0 SIN 0 1 3.6605644526724 0 0 0 1000
.TRAN 5.4636347826087 5.4636347826087E-3 TRAP 10
