7
R0100 1 0 5000
R0200 2 0 1000
R0301 3 1 10000
R0304 3 4 1000
C0200 2 0 100E-6
C0105 1 5 10E-6
N0602 6 2 -1000 0 0 0 0.6 1E-4 1 1
N0704 7 4 -1000 0 0 0 0.6 1E-4 1 1
F0201 2 1 1 7 5E-1
F0401 4 1 1 6 9.9E-1
V0500 5 0 SIN 0 10E-3 1000 2E-3 0 0 10
VCC 3 0 DC 10
.TRAN 20E-3 20E-6 TRAP 1
