15
R0001 0 1 1E+8
R0002 0 2 1E+8
C0304 3 4 1E-6
C0504 5 4 1E-6
C0607 6 7 1E-6
C0800 8 0 1E-6
C0903 9 3 1E-6
C1005 10 5 1E-6
C1107 11 7 1E-6
C1208 12 8 1E-6
C1309 13 9 1E-6
C1410 14 10 1E-6
C1511 15 11 1E-6
C0112 1 12 1E-6
N0003 0 3 -1000 0 0 0 0.6 1e-3 2 10
N0005 0 5 -1000 0 0 0 0.6 1e-3 2 10
N0007 0 7 -1000 0 0 0 0.6 1e-3 2 10
N0308 3 8 -1000 0 0 0 0.6 1e-3 2 10
N0511 5 11 -1000 0 0 0 0.6 1e-3 2 10
N0809 8 9 -1000 0 0 0 0.6 1e-3 2 10
N0710 7 10 -1000 0 0 0 0.6 1e-3 2 10
N0912 9 12 -1000 0 0 0 0.6 1e-3 2 10
N1015 10 15 -1000 0 0 0 0.6 1e-3 2 10
N1213 12 13 -1000 0 0 0 0.6 1e-3 2 10
N1114 11 14 -1000 0 0 0 0.6 1e-3 2 10
N1301 13 1 -1000 0 0 0 0.6 1e-3 2 10
N1402 14 2 -1000 0 0 0 0.6 1e-3 2 10
N1502 15 2 -1000 0 0 0 0.6 1e-3 2 10
V0400 4 0 SIN 0 100 10 0 0 0 200
V0600 6 0 SIN 0 100 10 0 0 180 200
.TRAN 10 1E-3 TRAP 1
