29
R0100 1 0 1
R0200 2 0 1
R0300 3 0 1
R0400 4 0 1
R0500 5 0 1
R0600 6 0 1
R0700 7 0 1
R0800 8 0 1
G0300 3 0 9 0 1
E0700 7 0 10 0 1
F0100 1 0 11 0 1
H1200 12 0 13 0 1
H1400 14 0 15 0 1
H1216 12 16 2 17 1
H1418 14 18 4 19 1
H2021 20 21 22 15 1
H0800 8 0 23 0 1
H2425 24 25 26 6 1
H2728 27 28 29 23 1
O1700 17 0 16 0
O1900 19 0 18 0
O2200 22 0 21 0
O2600 26 0 25 0
O2900 29 0 28 0
I1100 11 0 SIN 0 1 1 0.2 0 0 1
I1300 13 0 SIN 0 1 1 0.2 0 0 1
I0005 0 5 SIN 0 1 1 0.25 0 0 1
V0009 0 9 SIN 0 1 1 0.1 0 0 1
V0020 0 20 SIN 0 1 1 0.1 0 0 1
V2400 24 0 SIN 0 1 1 0.25 0 0 1
V1000 10 0 SIN 0 1 1 0.15 0 0 1
V2700 27 0 SIN 0 1 1 0.15 0 0 1
.TRAN 1.5 1.5E-2 TRAP 1
