5
N0100 1 0 -1000 0 0 0 0.6 1E-4 1 1
N0203 2 3 -1000 0 0 0 0.6 1E-4 1 1
F0004 0 4 4 2 5E-1
F0304 3 4 4 1 9.9E-1
I0005 0 5 PULSE 0 1E-5 1 0 0 1000 2000 1
I0005 0 5 PULSE 0 1E-5 2 0 0 1000 2000 1
I0005 0 5 PULSE 0 1E-5 3 0 0 1000 2000 1
I0005 0 5 PULSE 0 1E-5 4 0 0 1000 2000 1
I0005 0 5 PULSE 0 1E-5 5 0 0 1000 2000 1
VCC 0 3 PULSE 0 -10 0 0.5 0.5 0 1 6
VIB 5 4 DC 0
.TRAN 6 6E-4 TRAP 1
