3
R0102 1 2 1000
L0300 3 0 0.1
C0300 3 0 10E-6
N0103 1 3 0 0 1 8E-3 9 2E-3 10 10E-3
V0200 2 0 PULSE 0 10 0 0.01 0.01 1000 2000 1
.TRAN 0.1 0.1E-4 TRAP 1
