6
R0102 1 2 1
R0302 3 2 2
R0402 4 2 4
R0502 5 2 8
R0602 6 2 16
C0100 1 0 1
C0301 3 1 0.5
C0403 4 3 0.25
C0504 5 4 1.25E-1
C0605 6 5 6.25E-2
V0200 2 0 1 0 10
.AC DEC 10 0.01 100
